US05290814
(a) 2-Nitro-3,5-difluorophenyl acetic acid
A solution of 3,5-difluorophenylacetic acid (20 g, Fluorochem) in c.H2SO4 (150 ml) was stirred at -15° C. and c.HNO3 (75 ml) added dropwise over 1 hour at a temperature of from -5° to -10° C. The mixture was stirred for a further 1/2 hour at -10° C. and then poured into ice-water (1.0 l). The latter was extracted with ether (×3) and the combined extracts washed with water (×2), dried over MgSO4, and evaporated under reduced pressure to give a solid which was crystallised and then recrystallised from ether/hexane (1:4 v/v) to give 20.8 g of the desired product.

reactant | 3,5-difluorophenylacetic acid | 20 g | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
reactant | HNO3 | 75 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
product | 2-Nitro-3,5-difluorophenyl acetic acid | 20.8 g | [N+](=O)([O-])C1=C(C=C(C=C1F)F)CC(=O)O | C8H5F2NO4
